US06894061B2
6-Ethyl-5-[(4-methoxyphenyl)sulfonyl]-5,6-dihydrophenanthridine
A solution of 6-ethyl-5,6-dihydrophenanthridine (14 g, 69.2 mmol) and 4-methoxybenzenesulfonyl chloride (17.2 g, 83 mmol) in pyridine (100 ml) was heated at 80° C. overnight. The solvent was evaporated in vacuo; and the crude product was purified by preparative column chromatography on silica gel, eluting with a gradient and mixture of dichloromethane-hexane (50:50 to 100:0). After evaporation of the solvent, the residue was crystallized from diethyl ether, yielding the title compound (22.8 g, 60.1 mmol, 87%) as a colorless, crystalline solid, which was characterized by LCMS (ES+, FA, CV=5) and 1H NMR.

reactant | 6-ethyl-5,6-dihydrophenanthridine | 69.2 mmol, 14 g | C(C)C1NC=2C=CC=CC2C2=CC=CC=C12 | C15H15N
reactant | 4-methoxybenzenesulfonyl chloride | 83 mmol, 17.2 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 6-Ethyl-5-[(4-methoxyphenyl)sulfonyl]-5,6-dihydrophenanthridine | 60.1 mmol, 22.8 g, 87% | C(C)C1N(C=2C=CC=CC2C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C=C1)OC | C22H21NO3S
